US07405229B2
A solution of 4-bromo-1-methyl-1H-pyrazole-3-carbaldehyde (1.00 g, 5.29 mmol), malonic acid (825 mg, 7.94 mmol) and piperidine (0.12 mL, 1.2 mmol) in pyridine (0.60 mL) was heated to reflux for 3 hours. The mixture was then poured into 10% HCl and extracted with ethyl acetate (3×). The combined extracts were dried (Na2SO4) and concentrated in vacuo to afford (2E)-3-(4-bromo-1-methyl-1H-pyrazol-3-yl)prop-2-enoic acid as a colorless solid.

reactant | 4-bromo-1-methyl-1H-pyrazole-3-carbaldehyde | 5.29 mmol, 1.00 g | BrC=1C(=NN(C1)C)C=O | C5H5BrN2O
reactant | malonic acid | 7.94 mmol, 825 mg | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 1.2 mmol, 0.12 mL | N1CCCCC1 | C5H11N
reactant | HCl | Cl | ClH
solvent | pyridine | 0.60 mL | N1=CC=CC=C1 | C5H5N
product | (2E)-3-(4-bromo-1-methyl-1H-pyrazol-3-yl)prop-2-enoic acid | BrC=1C(=NN(C1)C)/C=C/C(=O)O | C7H7BrN2O2
